US07045533B2
1-Naphthalen-1-yl-3-(4-pentyloxy-naphthalen-1-yl)-urea:
A solution of 4-pentyloxy-naphthalene-1-carboxylic acid (103 mg, 0.4 mmol) and 1,8-bis(dimethylamino)naphthalene (86 mg, 0.4 mmol) in THF (0.8 mL) is stirred at room temperature for 30 min. After addition of DPPA (86 μL, 0.4 mmol) and 1-naphthylamine (229 mg, 1.6 mmol) the mixture is heated at 100° C. for 6 h, distributed between 2M HCl (8 mL) and DCM (2×8 mL). The combined organic phases are washed with 1 M Na2CO3 and water, dried over Na2SO4 and concentrated. Flash chromatography (cyclohexane/acetone) yields 78 mg (49%) of brownish crystals.

reactant | 4-pentyloxy-naphthalene-1-carboxylic acid | 0.4 mmol, 103 mg | C(CCCC)OC1=CC=C(C2=CC=CC=C12)C(=O)O | C16H18O3
reactant | 1,8-bis(dimethylamino)naphthalene | 0.4 mmol, 86 mg | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | DPPA | 0.4 mmol, 86 μL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | 1-naphthylamine | 1.6 mmol, 229 mg | C1(=CC=CC2=CC=CC=C12)N | C10H9N
reactant | HCl | 2M, 8 mL | Cl | ClH
solvent | THF | 0.8 mL | C1CCOC1 | C4H8O
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
product | 1-Naphthalen-1-yl-3-(4-pentyloxy-naphthalen-1-yl)-urea | 78 mg, 49% | C1(=CC=CC2=CC=CC=C12)NC(=O)NC1=CC=C(C2=CC=CC=C12)OCCCCC | C26H26N2O2
